### PR TITLE
Theory of natural numbers

### PR DESCRIPTION
**Pull request by Bxil**
- Predicate propagation
- Membership symbol for arbitrary pattern on the left
- Peano induction

### CODE REVIEW

File: matching-logic/src/Theories/Definedness_ProofSystem.v [hunk 1]
```diff
@@ -4036,6 +4036,269 @@ Proof.
       { reflexivity. }
 Defined.
 
+(* TODO: Put in a different file? *)
+Lemma bott_and {Σ : Signature} Γ ϕ :
```
Comment (berpeti) [inline matching-logic/src/Theories/Definedness_ProofSystem.v:4040]: I suggest moving this to `ProofMode_propositional.v`.

File: matching-logic/src/Theories/Definedness_ProofSystem.v [hunk 2]
```diff
@@ -4036,6 +4036,269 @@ Proof.
...
+  intro wfϕ.
+  toMLGoal.
+  { wf_auto2. }
+  mlSplitAnd.
+  + mlIntro "H". mlDestructAnd "H" as "B" "P". mlExact "B".
+  + mlIntro "H". mlExFalso. mlExact "H".
+Defined.
+
+(* TODO: Put in a different file? *)
+Lemma top_and {Σ : Signature} Γ ϕ :
```
Comment (berpeti) [inline matching-logic/src/Theories/Definedness_ProofSystem.v:4053]: I suggest moving this to `ProofMode_propositional.v`. Another observation is that you do not need to leave the proofmode, if you use `mlAdd`.

File: matching-logic/src/Theories/Unification.v [hunk 3]
```diff
@@ -50,52 +50,46 @@ Section ProofSystemTheorems.
...
 
-  Lemma membership_imp_equal :
-    forall Γ φ φ',
-      theory ⊆ Γ -> mu_free φ' ->
-      well_formed φ -> well_formed φ' ->
-      Γ ⊢ (ex , (φ =ml b0)) ->
-      Γ ⊢ (ex , (φ' =ml b0)) ->
-      Γ ⊢ (φ ∈ml φ') ---> (φ =ml φ') .
+
+  Lemma membership_imp_equal Γ φ φ' :
```
Comment (berpeti) [inline matching-logic/src/Theories/Unification.v:54]: I suggest removing this lemma, as I mentioned before.

**Review by berpeti — CHANGES_REQUESTED** [review]
I added my comments to the code. I marked a number of lemmas to be moved to `Definedness_ProofSystem.v`, however, lemmas containing predicate and functional patterns could also be moved to a new file which is specific to express reasoning about patterns of first-order logic.

**Comment by h0nzZik** [comment]
I quickly went over the code, and do agree with Peter on all points. I have no other comments so far.

**Comment by h0nzZik** [comment]
There already is a file for for FO reasoning without equality, so this new file would be for FO with equality.

File: matching-logic/src/Theories/Nat.v [hunk 4]
```diff
@@ -0,0 +1,403 @@
...
+  Theories.Unification.
+
+Import MatchingLogic.Theories.Sorts_Syntax.Notations.
+
+Open Scope ml_scope.
+Open Scope string_scope.
+Open Scope list_scope.
+
+(* TODO: Put in a different file? *)
+Lemma ex_sort_impl_ex {Σ : Signature} {syntax : Syntax} Γ ϕ s :
```
[the remark this answers is not in the document]
Comment (berpeti) [reply matching-logic/src/Theories/Nat.v]: Yes, I see. I did not recognize the notation of sorted quantification.

File: matching-logic/src/Theories/Definedness_ProofSystem.v (hunk 2 above)
Comment (berpeti) [reply matching-logic/src/Theories/Definedness_ProofSystem.v]: Then the other option is to use `mlAssert`, and `aapply`. However, I am happy with this solution too, it was a suggestion so that the proof mode is not left.

**Review by berpeti — CHANGES_REQUESTED** [review]
I also suggest using a different name instead of `FOEquality.v`, that fits the current names. E.g. `FOEquality_ProofSystem.v`.

**Review by berpeti — APPROVED** [review]
